US07816391B2
Methyl 2-[4-[4-(cyclohexylcarbamoyl)-5-propylsulfanyl-pyrazol-1-yl]phenyl]acetate (Intermediate#33) (210 mg, 0.51 mmol) was dissolved in methanol (10 mL) and treated at ambient temperature with a 2M solution of sodium hydroxide (1.27 mL, 2.53 mmol). The mixture was stiffed overnight and then methanol was removed by evaporation under reduced pressure. The clear aqueous solution was diluted with water (20 mL) and acidified to pH3 with 2M HCl. The resulting white precipitate was extracted into ethyl acetate (2×20 mL). The combined extracts were washed with brine (10 mL), dried (MgSO4) and evaporated to give the crude product. The crude product was purified by preparative HPLC using decreasingly polar mixtures of water (containing 0.1% NH3) and MeCN as eluents. Fractions containing the desired compound were evaporated to dryness to afford 2-[4-[4-(cyclohexylcarbamoyl)-5-propylsulfanyl-pyrazol-1-yl]phenyl]acetic acid. (84 mg, 41%).

reactant | Methyl 2-[4-[4-(cyclohexylcarbamoyl)-5-propylsulfanyl-pyrazol-1-yl]phenyl]acetate | 0.51 mmol, 210 mg | C1(CCCCC1)NC(=O)C=1C=NN(C1SCCC)C1=CC=C(C=C1)CC(=O)OC | C22H29N3O3S
reactant | sodium hydroxide | 2.53 mmol, 1.27 mL | [OH-].[Na+]
solvent | methanol | 10 mL | CO | CH4O
product | 2-[4-[4-(cyclohexylcarbamoyl)-5-propylsulfanyl-pyrazol-1-yl]phenyl]acetic acid | C1(CCCCC1)NC(=O)C=1C=NN(C1SCCC)C1=CC=C(C=C1)CC(=O)O | C21H27N3O3S
